US05204019
0.15 mol of a solution of n-BuLi in hexane is added dropwise to a mixture of 0.1 mol of 4'-n-pentyl-2,3-difluorobiphenyl (prepared from 1,2-difluorobenzene and 4-pentylcyclohexanone analogously to Example 3), in 250 ml of THF and 0.1 mol of potassium tert. butylate at -90° C. After stirring for 10 minutes at -85° C. a solution of 0.1 mol of 1-(4-propylphenyl)-2-iodoethane in 50 ml of THF and 2 ml of DMPU is added dropwise. After warming up to -40° C. and customary work-up 1-(4'-n-pentyl-2,3-difluorobiphenyl-4-yl)-2-(4-propylphenyl)-ethane is obtained.

reactant | n-BuLi | [Li]CCCC
reactant | 4'-n-pentyl-2,3-difluorobiphenyl | 0.1 mol | C(CCCC)C1=CC=C(C=C1)C1=C(C(=CC=C1)F)F | C17H18F2
reactant | 1,2-difluorobenzene | FC1=C(C=CC=C1)F | C6H4F2
reactant | 4-pentylcyclohexanone | C(CCCC)C1CCC(CC1)=O | C11H20O
reactant | 1-(4-propylphenyl)-2-iodoethane | 0.1 mol | C(CC)C1=CC=C(C=C1)CCI | C11H15I
solvent | hexane | CCCCCC | C6H14
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | DMPU | 2 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 1-(4'-n-pentyl-2,3-difluorobiphenyl-4-yl)-2-(4-propylphenyl)-ethane | C(CCCC)C1=CC=C(C=C1)C1=C(C(=C(C=C1)CCC1=CC=C(C=C1)CCC)F)F | C28H32F2
